US06878728B1
tert-Butyl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(1-ethylpropoxy)amino]-1-[4-(benzyloxy)benzyl]-2-hydroxypropylcarbamate
To a solution of tert-butyl (1S)-2-[4-(benzyloxy)phenyl]-1-[(2S)-oxiranyl]ethylcarbamate (2.66 g, 7.2 mmol) and the N-(1-ethylpropoxy)-1,3-benzodioxole-5-sulfonamide (2.30 g, 9.0 mmol) in tetrahydrofuran (12 mL) was added phosphazene base P4 tert-butyl solution (1.44 mL, 1.44 mmol, 1M in hexane). After stirring at ambient temperature for 18 h, the reaction was concentrated in vacuo, taken up in ethyl acetate (100 mL), washed with 0.5 N hydrochloric acid (2×40 mL) followed by water (40 mL), saturated sodium bicarbonate (40 mL) and brine (40 mL), dried (magnesium sulfate) and concentrated. The residue was purified by silica gel chromatography (20% ethyl acetate in hexane) to afford the title compound (4.25 g, 90%) as a white foam. 1H NMR (DMSO-d6): δ 0.79 (6H, dt), 1.11-1.74 (4H, m), 1.17 (9H, s), 2.37 (1H, t), 2.60-3.02 (3H, m), 3.38-3.49 (1H, m), 3.50-3.61 (1H, m), 4.03 (1H, m), 5.00 (2H, s), 5.04 (1H, d), 6.15 (2H, s), 6.60 (1H, d), 7.03 (2H, d), 7.10 (1H, d), 7.17-7.38 (9H, m)

reactant | tert-butyl (1S)-2-[4-(benzyloxy)phenyl]-1-[(2S)-oxiranyl]ethylcarbamate | 7.2 mmol, 2.66 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C[C@@H]([C@@H]1OC1)NC(OC(C)(C)C)=O | C22H27NO4
reactant | N-(1-ethylpropoxy)-1,3-benzodioxole-5-sulfonamide | 9.0 mmol, 2.30 g | C(C)C(CC)ONS(=O)(=O)C1=CC2=C(OCO2)C=C1 | C12H17NO5S
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
product | tert-Butyl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(1-ethylpropoxy)amino]-1-[4-(benzyloxy)benzyl]-2-hydroxypropylcarbamate | 4.25 g, 90% | O1COC2=C1C=CC(=C2)S(=O)(=O)N(C[C@H]([C@H](CC2=CC=C(C=C2)OCC2=CC=CC=C2)NC(OC(C)(C)C)=O)O)OC(CC)CC | C34H44N2O9S
